US07776857B2
A mixture of 4-(4-nitrobenzyl)-3,4-dihydro-2H-benzo[b][1,4]oxazine (0.432 g, 1.6 mmol) and tin(II) chloride dihydrate (1.8 g, 8.0 mmol) in MeOH (10 mL) was heated to 50° C. After 3 hrs the mixture was concentrated in vacuo and the residue taken up in EtOAc. Saturated NaHCO3 was added and the mixture was filtered. The filtrate was washed with brine, dried with Na2SO4, concentrated in vacuo, and purified by silica gel chromatography using 20-100% Hexanes:EtOAc to afford 4-((2,3-dihydrobenzo[b][1,4]oxazin-4-yl)methyl)benzenamine as an orange oil. MS found: M+H+=241.1.

reactant | 4-(4-nitrobenzyl)-3,4-dihydro-2H-benzo[b][1,4]oxazine | 1.6 mmol, 0.432 g | [N+](=O)([O-])C1=CC=C(CN2C3=C(OCC2)C=CC=C3)C=C1 | C15H14N2O3
reactant | tin(II) chloride dihydrate | 8.0 mmol, 1.8 g | O.O.[Sn](Cl)Cl
solvent | MeOH | 10 mL | CO | CH4O
product | 4-((2,3-dihydrobenzo[b][1,4]oxazin-4-yl)methyl)benzenamine | O1C2=C(N(CC1)CC1=CC=C(C=C1)N)C=CC=C2 | C15H16N2O
